US05023253
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl -6-[2-(1-pyrrolidinyl)ethoxy]-azirino[2',3':3,4]pyrrolo [1,2-a]indole-4,7-dione carbamate
A solution of mitomycin A (100 mg) in 4 ml of 1-(2-hydroxyethyl)pyrrolidine was stirred at room temperature and under nitrogen for 45 minutes with 240 mg of a 1.6% solution of potassium hydroxide in 1-(2-hydroxyethyl)pyrrolidine. The reaction mixture was decomposed with excess dry ice while immersing the flask into a water bath at room temperature. The reaction product was isolated twice on silica gel plate using triethylamine as a solvent in the first isolation and acetone in the second isolation. The pink band was cut and extracted with a mixture of acetone-triethylamine (4:1). The extract was concentrated under reduced pressure to give 40 mg (32%) of the title compound, having no definite melting point and providing the following analysis:

reactant | mitomycin A | 100 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
reactant | potassium hydroxide | [OH-].[K+]
reactant | dry ice | C(=O)=O | CO2
reactant | acetone | CC(=O)C | C3H6O
reactant | 1-(2-hydroxyethyl)pyrrolidine | 4 ml | OCCN1CCCC1 | C6H13NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl -6-[2-(1-pyrrolidinyl)ethoxy]-azirino[2',3':3,4]pyrrolo [1,2-a]indole-4,7-dione carbamate | 40 mg, 32% | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)OCCN1CCCC1)C)=O)CC1C2N1)OC | InChI=1S/C20H27N3O5.CH3NO2/c1-11-16(25)15-14(17(26)18(11)28-8-7-22-5-3-4-6-22)12(10-24)20(27-2)19-13(21-19)9-23(15)20;2-1(3)4/h12-13,19,21,24H,3-10H2,1-2H3;2H2,(H,3,4)
